US06423713B1
3-(4-fluorophenyl)-1-methyl-α-phenyl-4-(4-pyridinyl)-1H-pyrazole-5-methanol
To solid magnesium (60 mg, 5 mmol) under nitrogen was added a solution of 4-[5-bromo-3-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]pyridine (450 mg, 1.35 mmol) (prepared in accordance with Example A-214) in tetrahydrofuran (7 mL). The mixture was heated at 40° C. for 2 hours. Benzaldehyde (1 mL) was added. The mixture was heated to 45° C. for 2 hours. It was quenched with HCl (10 mL, 1N) and washed with ethyl acetate. The aqueous acid layer was basified and extracted with ethyl acetate. The organic layer was washed with water, brine, dried over MgSO4, filtered and concentrated to give a residue. The residue was purified with a silica gel column to give the title compound (59 mg, 12% yield). MS: m/z=360 (M+1); 1H NMR was consistent with the proposed structure. Anal. Calc'd for C22H18N2OF.0.6EtOAC: C, 71.1; H, 5.6; N, 10.2; Found: C, 70.9; H, 5.47; N, 10.2.

reactant | magnesium | 5 mmol, 60 mg | [Mg] | Mg
reactant | 4-[5-bromo-3-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]pyridine | 1.35 mmol, 450 mg | BrC1=C(C(=NN1C)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C15H11BrFN3
reactant | Benzaldehyde | 1 mL | C(C1=CC=CC=C1)=O | C7H6O
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
product | 3-(4-fluorophenyl)-1-methyl-α-phenyl-4-(4-pyridinyl)-1H-pyrazole-5-methanol | 59 mg, 12% yield | FC1=CC=C(C=C1)C1=NN(C(=C1C1=CC=NC=C1)C(O)C1=CC=CC=C1)C | C22H18FN3O
